US04595700
To 2-(diethylphosphono)hexanoic acid methyl ester (53.2 g, 0.2M) in dry tetrahydrofuran (300 ml) was added sodium hydride (5.3 g, 0.22M) under an atmosphere of argon at 0° C. with continuous stirring. The reaction was allowed to warm to room temperature over 1 hour when the evolution of hydrogen had ceased. The reaction was then cooled to -30° C. and acetaldehyde (30 g, 0.66M) added dropwise to the continuously stirred solution over 10 minutes. The reaction was allowed to warm to 20° C. over 16 h and then concentrated in vacuo to a gum which was dissolved in ether. The etherial solution was washed with aqueous saturated sodium hydrogen carbonate, dried over sodium sulphate and concentrated in vacuo. Vacuum distillation of the resulting gum afforded E and Z 2-(butyl)-but-2-enoic acid methyl ester (7.8 g) B.p. 50°-60° C. at 0.8 mm Hg (Found: C, 65.0; H, 10.1 C9H16O 2 +0.5 H2O requires: C, 65.4; H, 10.4%); δ(CDCl3) 0.84 (3H, t, J=8 Hz, CH3CH2); 1.34 (4H, m, 2×CH2); 1.8 and 1.96 (3H each d, each J=7 Hz, CHCH); 2.32 (2H, m, CH2 --C); 3.72 and 3.74 (3H, each s, CH3O); 5.96 and 6.84 (1H, each q, each J=7 Hz, CH).

reactant | 2-(diethylphosphono)hexanoic acid methyl ester | 0.2M, 53.2 g | COC(C(CCCC)P(=O)(OCC)OCC)=O | C11H23O5P
reactant | sodium hydride | 0.22M, 5.3 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | acetaldehyde | 0.66M, 30 g | C(C)=O | C2H4O
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 2-(butyl)-but-2-enoic acid methyl ester | 7.8 g | COC(C(=CC)CCCC)=O | C9H16O2
